US09056859B2
Step B: 5-allyl-7-fluoro-2-benzofuran-1(3H)-one
To a flask charged with 5-bromo-7-fluoro-2-benzofuran-1 (3H)-one (300 mg, 1.3 mmol) and a stir bar was added allyl tri-n-butyltin (0.6 mL, 2.0 mmol), palladium tetrakis triphenylphosphine (230 mg, 0.19 mmol), lithium chloride (170 mg, 3.9 mmol), and toluene (5 mL). The mixture was purged three times with nitrogen, and heated to reflux for 4 hours. LC showed formation of the desired product, which was purified by silica gel chromatography to deliver 5-allyl-7-fluoro-2-benzofuran-1(3H)-one. LC-MS (IE, m/z): 193 [M+1]+;

reactant | 5-bromo-7-fluoro-2-benzofuran-1 (3H)-one | 1.3 mmol, 300 mg | BrC1=CC2=C(C(OC2)=O)C(=C1)F | C8H4BrFO2
reactant | allyl tri-n-butyltin | 2.0 mmol, 0.6 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 3.9 mmol, 170 mg | [Cl-].[Li+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-allyl-7-fluoro-2-benzofuran-1(3H)-one | C(C=C)C1=CC2=C(C(OC2)=O)C(=C1)F | C11H9FO2
